US04844728
To a mixture of 6 g of 4-ethoxycarbonyl-1-(2-quinolyl)pyrazole-5-sulfonamide and 3.6 g of anhydrous potassium carbonate dissolved in 40 ml of acetonitrile, was added 1.9 g of n-butylisocyanate at room temperature, followed by heating under reflux for 1.5 hours. After the reaction was completed, acetonitrile was evaporated under reduced pressure, and then the residue was poured into ice water to filter insolubles off, and then the filtrate was precipitated with hydrochloric acid. Crystals precipitated were filtered, washed with water and dried to obtain 7 g of N-(n-butylcarbamoyl)-4-ethoxycarbonyl-1-(2-quinolyl)pyrazole-5-sulfonamide. m.p: 140° to 142° C.

reactant | 4-ethoxycarbonyl-1-(2-quinolyl)pyrazole-5-sulfonamide | 6 g | C(C)OC(=O)C=1C=NN(C1S(=O)(=O)N)C1=NC2=CC=CC=C2C=C1 | C15H14N4O4S
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-butylisocyanate | 1.9 g | C(CCC)N=C=O | C5H9NO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-(n-butylcarbamoyl)-4-ethoxycarbonyl-1-(2-quinolyl)pyrazole-5-sulfonamide | 7 g | C(CCC)NC(=O)NS(=O)(=O)C1=C(C=NN1C1=NC2=CC=CC=C2C=C1)C(=O)OCC | C20H23N5O5S
